US07163947B2
A solution of 2-ethoxymethyl-1H-imidazo[4,5-c]quinolin-1-amine (1.50 g, 6.19 mmol) in 20 mL of isopropanol was treated with 2-furaldehyde (1.08 mL, 13.0 mmol) and 2 drops of concentrated HCl and heated to reflux under an atmosphere of nitrogen. After 48 h, the reaction was concentrated under reduced pressure to yield a brown oil. The oil was dissolved in 30 mL of CHCl3 and washed with 5% Na2CO3 solution, water and brine, dried over Na2SO4, filtered and concentrated under reduced pressure to yield N-(2-ethoxymethyl-1H-imidazo[4,5-c]quinolin-1-yl)(furan-2-ylmethylene)amine (1.86 g) as a light brown solid.

reactant | 2-ethoxymethyl-1H-imidazo[4,5-c]quinolin-1-amine | 6.19 mmol, 1.50 g | C(C)OCC=1N(C2=C(C=NC=3C=CC=CC23)N1)N | C13H14N4O
reactant | 2-furaldehyde | 13.0 mmol, 1.08 mL | O1C(=CC=C1)C=O | C5H4O2
solvent | isopropanol | 20 mL | C(C)(C)O | C3H8O
catalyst | HCl | 2 drops | Cl | ClH
solvent | CHCl3 | 30 mL | C(Cl)(Cl)Cl | CHCl3
product | N-(2-ethoxymethyl-1H-imidazo[4,5-c]quinolin-1-yl)(furan-2-ylmethylene)amine | 1.86 g | C(C)OCC=1N(C2=C(C=NC=3C=CC=CC23)N1)N=CC=1OC=CC1 | C18H16N4O2
